US07960572B2
A 50 ml rbf was charged with 6-fluoro-3,4-dihydro-2H-chromen-2-carboxylic acid (10.0 g, 51.0 mmol), oxalyl chloride (9.71 g, 76.5 mmol) and dichloromethane (24.9 g) under nitrogen atmosphere at room temperature. The mixture was stirred for 17 h at room temperature and then concentrated in vacuo at 30° C. The residue was dissolved in toluene (75 ml) and stirred at rt. 4-nitrophenol (7.05 g, 51.02 mmol) was added to the reaction mixture, followed by pyridine (5 ml) over the period of 5 min. The slurry was heated to 80° C., stirred for 3 h at this temperature and then cooled to 25° C. The solid was separated by filtration and the filtered solution washed with 2M aqueous sodium hydroxide (65 g), with a saturated solution of sodium bicarbonate (2×51 g), and with demi water (53 g). The separated organic phase was concentrated in vacuo and dried via azeotropic distillation to furnish 4-nitrophenyl 6-fluoro-3,4-dihydro-2H-chromen-2-carboxylate as a vetrous oil (7.71 g, 40.5% yield, 85.0 A %).

reactant | 6-fluoro-3,4-dihydro-2H-chromen-2-carboxylic acid | 51.0 mmol, 10.0 g | FC=1C=C2CCC(OC2=CC1)C(=O)O | C10H9FO3
reactant | oxalyl chloride | 76.5 mmol, 9.71 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 24.9 g | ClCCl | CH2Cl2
reactant | 4-nitrophenol | 51.02 mmol, 7.05 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 4-nitrophenyl 6-fluoro-3,4-dihydro-2H-chromen-2-carboxylate | 40.5% yield | FC=1C=C2CCC(OC2=CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H12FNO5
